US05589474
To 2-amino-6-methoxy-1,3-benzthiazole (5 g, 0.027M) was added a solution of potassium hydroxide (25 g in 50 ml of water). The mixture was heated at 140° for 5 hours. The crude 2-amino-5-methoxybenzenethiol produced was diluted with water (150 ml) and to this was added copper powder (1.25 g, 1 equivalent) and iodobenzoic acid (5.8 g, 1 equivalent). The mixture was heated under reflux for 4 hours under nitrogen. On cooling the mixture was filtered to remove copper, and acidified with concentrated hydrochloric acid. The solution was filtered to give the product as a light green solid (5 g).

reactant | 2-amino-6-methoxy-1,3-benzthiazole | 0.027M, 5 g | NC=1SC2=C(N1)C=CC(=C2)OC | C8H8N2OS
solvent | potassium hydroxide | 50 ml, 25 g | [OH-].[K+]
product | 2-amino-5-methoxybenzenethiol | NC1=C(C=C(C=C1)OC)S | C7H9NOS
